US04011331
N-Propionyl-N'[2-(2,6-dimethylpiperidino)-ethyl]thiourea
By the general method described in Example 1, 1-(2-aminoethyl)-2,6-dimethylpiperidine is reacted with propionyl isothiocyanate to give the title compound which may be hydrolysed with 10% sodium hydroxide to give N-2[(2,6-dimethylpiperidino)-ethyl]thiourea.

reactant | 1-(2-aminoethyl)-2,6-dimethylpiperidine | NCCN1C(CCCC1C)C | C9H20N2
reactant | propionyl isothiocyanate | C(CC)(=O)N=C=S | C4H5NOS
product | N-Propionyl-N'[2-(2,6-dimethylpiperidino)-ethyl]thiourea | C(CC)(=O)NC(=S)NCCN1C(CCCC1C)C | C13H25N3OS
